US04948794
6-Chloro-1-methylquinoxaline-2,3(1H,4H)-dione (Compound 14)
A suspension of 4-chloro-1-methylamino-2-nitrobenzene (1.73 g, 9.3 mmol) in 50 ml of ethanol was hydrogenated at room temperature and 2 atm. pressure in the presence of 5% palladium-on-carbon (0.5 g) until the theoretical amount of hydrogen was absorbed. The catalyst was filtered off, and 50 ml of IN hydrochloric acid was added to the filtrate. The acidic filtrate was evaporated to dryness and the solid residue was refluxed with oxalic acid dihydrate (1.4 g, 11 mmol) in 100 ml of 4M hydrochloric acid for 90 min. The mixture was cooled and the precipitated product was collected by filtration and washed with water, ethanol and ether to give 0.45 g (23%) of the title compound. M.p. 341.5° C. (N,N-dimethylformamide); IR (KBr): 1700, 1660 cm-1, 1H-NMR (DMSO-d6 : 3.43 (s, 3H, CH3), 6.97-7.40 (m, 3H, ArH), 12.0 (broad s, 1H, NH); MS m/z: 212 (M+ +2, 50%), 210 (M+, 100%).

reactant | 4-chloro-1-methylamino-2-nitrobenzene | 9.3 mmol, 1.73 g | ClC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C7H7ClN2O2
reactant | oxalic acid dihydrate | 11 mmol, 1.4 g | O.O.C(C(=O)O)(=O)O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 4M, 100 ml | Cl | ClH
product | 6-Chloro-1-methylquinoxaline-2,3(1H,4H)-dione | 0.45 g, 23% | ClC=1C=C2NC(C(N(C2=CC1)C)=O)=O | C9H7ClN2O2
